Name:  ___.                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Keflex / Taxotere
 
Attending: ___
 
Chief Complaint:
Fever
 
Major Surgical or Invasive Procedure:
None.
 
History of Present Illness:
HPI: Ms. ___ is a ___ year old woman with a history of breast 
cancer s/p bilateral mastectomies and chemotherapy who presents 
with fever and diarrhea. She completed her last cycle of 
chemotherapy with nabpaclitaxel and cytoxan on ___. She had 
chills for the past two days but no fevers. She had five 
episodes of diarrhea on the day prior to admission. She also has 
had pelvic pain which she states is common for her after chemo. 
She endorses crampy abdominal pain and nausea which is near her 
baseline. She has had a decreased appetite and states that food 
tastes bland. She has not noticed any blood in her stool. 

In the ED, initial VS were 98.4 85 119/72 16 99% RA. CT 
abdomen/pelvis, CXR, and UA were unremarkable. Labs were notable 
for borderline neutropenia with ANC ~1500. She was given 
Vanc/Meropenem for febrile neutropenia out of concern that her 
counts will drop further as she approaches her nadir.
 

ROS:  
(+) Per HPI  
(-) Denies blurry vision, diplopia, loss of vision, photophobia. 
Denies headache, sinus tenderness, rhinorrhea or congestion. 
Denies chest pain or tightness, palpitations, lower extremity 
edema. Denies cough, shortness of breath, or wheezes. Denies 
constipation, abdominal pain, melena, hematemesis, hematochezia. 
Denies dysuria, stool or urine incontinence. Denies arthralgias 
or myalgias. Denies rashes or skin breakdown. No 
numbness/tingling in extremities. All other systems negative.  
 

 
Past Medical History:
PAST ONCOLOGIC HISTORY:
___ + mammogram, invasive ductal carcinoma
___ bilateral mastectomy, final stage IIA
TC x 4 cycles
Cycle 4 of nabpaclitaxel +Cytoxan on ___
  
PAST MEDICAL HISTORY:  
OSA on CPAP pressure of 7 cm H20
Hypothyroidism
Obesity

 
Social History:
___
Family History:
Mother with breast cancer. Paternal first cousin with DCIS.  
Also family history of depression and heart disease 

 
Physical Exam:
Admission Physical Exam:
VS: 99.3 99.3 123/67 104 20 99RA 
GENERAL: NAD, midddle aged woman resting in bed  
HEENT: AT/NC, EOMI, PERRLA, anicteric sclera, nontender supple 
neck, no LAD
CARDIAC: RRR, S1/S2, no murmurs, gallops, or rubs  
LUNG: Clear, no wheezes, rales, rhonchi,
ABD: nondistended, +BS, no rebound/guarding 
EXT: moving all extremities well, no cyanosis, clubbing or 
edema, no obvious deformities  
PULSES: 2+ DP pulses bilaterally  
NEURO: CN II-XII intact  
SKIN: warm and well perfused, no excoriations or lesions, no 
rashes  
.
Discharge Physical Exam:
VS: 98.6 98.6 94-102/58-62 ___ 16 97RA 
GENERAL: NAD, midddle aged woman resting in bed  
HEENT: AT/NC, EOMI, PERRLA, anicteric sclera, no LAD
CARDIAC: RRR, S1/S2, no murmurs, gallops, or rubs  
LUNG: Clear, no wheezes, rales, rhonchi,
ABD: nondistended, +BS, no rebound/guarding 
EXT: moving all extremities well, no cyanosis, clubbing or 
edema, no obvious deformities  
PULSES: 2+ DP pulses bilaterally  
NEURO: CN II-XII intact  
SKIN: warm and well perfused, no excoriations or lesions, no 
rashes
 
Pertinent Results:
Admission Labs:
___ 12:15AM URINE  BLOOD-NEG NITRITE-NEG PROTEIN-NEG 
GLUCOSE-NEG KETONE-NEG BILIRUBIN-NEG UROBILNGN-NEG PH-7.0 
LEUK-NEG
___ 12:15AM URINE  COLOR-Straw APPEAR-Clear SP ___
___ 01:00AM   NEUTS-74.9* ___ MONOS-2.2 EOS-2.2 
BASOS-1.2
___ 01:00AM   WBC-1.9*# RBC-3.55* HGB-10.7* HCT-32.0* 
MCV-90 MCH-30.2 MCHC-33.5 RDW-17.6*
___ 01:00AM   ALBUMIN-3.9
___ 01:00AM   LIPASE-17
___ 01:00AM   ALT(SGPT)-16 AST(SGOT)-25 ALK PHOS-55 TOT 
BILI-0.7
___ 01:00AM   GLUCOSE-108* UREA N-7 CREAT-0.6 SODIUM-137 
POTASSIUM-4.8 CHLORIDE-105 TOTAL CO2-22 ANION GAP-15
___ 02:07AM   LACTATE-0.7
.
Discharge Labs:
___ 07:45AM BLOOD WBC-2.0* RBC-3.27* Hgb-10.0* Hct-29.9* 
MCV-92 MCH-30.6 MCHC-33.5 RDW-17.8* Plt ___
___ 07:45AM BLOOD Neuts-48.3* ___ Monos-13.7* 
Eos-5.4* Baso-1.0
___ 07:45AM BLOOD Glucose-83 UreaN-5* Creat-0.5 Na-142 
K-4.1 Cl-108 HCO3-26 AnGap-12
___ 07:45AM BLOOD Calcium-8.7 Phos-4.0 Mg-2.0
.
Microbiology:
# Blood Cultures (___): No growth.
# Urine Culture (___): 
 ESCHERICHIA COLI.    >100,000 ORGANISMS/ML.. 
         PRESUMPTIVE IDENTIFICATION.  PREDOMINATING ORGANISM. 
         INTERPRET RESULTS WITH CAUTION. 
         Cefazolin interpretative criteria are based on a dosage 
regimen of
         2g every 8h. 

                              SENSITIVITIES: MIC expressed in 
MCG/ML
                      
_________________________________________________________
                             ESCHERICHIA COLI
                             |   
AMPICILLIN------------  =>32 R
AMPICILLIN/SULBACTAM--    16 I
CEFAZOLIN-------------   <=4 S
CEFEPIME--------------   <=1 S
CEFTAZIDIME-----------   <=1 S
CEFTRIAXONE-----------   <=1 S
CIPROFLOXACIN---------<=0.25 S
GENTAMICIN------------   <=1 S
MEROPENEM-------------<=0.25 S
NITROFURANTOIN--------  <=16 S
PIPERACILLIN/TAZO-----   <=4 S
TOBRAMYCIN------------   <=1 S
TRIMETHOPRIM/SULFA----  =>16 R
# Blood Cultures (___): No growth.
# Blood Cultures ___: Pending.
.
Pathology: None.
.
Imaging/Studies:
# CXR (___): No acute cardiopulmonary process.  If clinical 
suspicion for an atypical infections is high, CT is the 
recommended study of choice.
# CT abdomen/pelvis (___): 1. No acute abdominal or pelvic 
processes. 
2. Cholelithiasis without cholecystitis.   
# CXR (___):  In comparison with the study of ___, there is 
no change or evidence of acute cardiopulmonary disease.  No 
pneumonia, vascular congestion, or pleural effusion.
 
Brief Hospital Course:
___ year old woman with a history of Stage IIa breast cancer and 
hypothyroidism who presents with a chief complaint of diarrhea 
and fever. 

ACTIVE ISSUES:
# Febrile Neutropenia: She was febrile to 101.8F on the day 
prior to admission. She had been having diarrhea since her last 
chemotherapy session about 1 week earlier. Blood and urine 
cultures were obtained and she was started on broad spectrum 
antibiotics (vanc and meropenem). Her chest x-ray was 
unremarkable. Antibiotics were stopped when she arrived on the 
floor. Urine cultures obtained in the ER grew out E. Coli that 
was resistant to Bactrim. She initially remained afebrile but 
her low grade fevers were likely being masked by the ibuprofen 
and Tylenol she was taking for bone pain. She had a low grade 
fever of 100.5F on ___ once the ibuprofen and Tylenol were 
stopped. She was restarted on meropenem and remained afebrile. 
Repeat blood and urine cultures were obtained. The second set of 
urine cultures showed no growth. Of note, she had no episodes of 
diarrhea during this admission. She also developed a dry cough. 
Repeat chest x-ray was negative and the cough resolved prior to 
discharge.   
  
# Neutropenia: Likely secondary to recent chemotherapy. WBC 
count was up-trending after two doses of Neupogen. 

# Pelvic bone pain: Common after she receives chemo. Bone pain 
has resolved with oxycodone. She will continue ibuprofen and 
Tylenol on discharge. 

INACTIVE ISSUES: 
# Stage IIa Breast cancer s/p bilateral masectomy and recent 
chemotherapy with Nabpaclitaxel and Cytoxan. Her nausea was 
controlled with Zofran, Compazine and Marinol.
# Hypothyroidism: Continued home levothyroxine.
# OSA: Did not require night-time CPAP during this admission. 
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Lorazepam 0.5-1.5 mg PO HS:PRN insomnia 
2. Ondansetron 8 mg PO Q12H:PRN nausea 
3. Prochlorperazine 10 mg PO Q8H:PRN nausea 
4. Levothyroxine Sodium 137 mcg PO DAILY 

 
Discharge Medications:
1. Levothyroxine Sodium 137 mcg PO DAILY 
2. Lorazepam 0.5-1.5 mg PO HS:PRN insomnia 
3. Ondansetron 8 mg PO Q12H:PRN nausea 
4. Prochlorperazine 10 mg PO Q8H:PRN nausea 
5. Docusate Sodium 100 mg PO BID:PRN constipation 
RX *docusate sodium 100 mg 1 capsule(s) by mouth twice a day 
Disp #*60 Capsule Refills:*0

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Febrile Neutropenia

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___,
    It was a pleasure taking care of you at ___. You were 
admitted with a fever in the setting of low counts. You were 
started on antibiotics and were given Neupogen. Your counts 
improved, and we were able to discharge you home. 

Thank you for allowing us to partake in your care. 

Sincerely,

Your ___ Care Team
 
Followup Instructions:
___